US08039472B2
To 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid tert-butyl ester (0.097 g, 0.33 mmol) is added a 90% solution of TFA in DCM (2 ml) and the resulting solution is stirred at room temperature for 1 hour. The solvents are removed in vacuo to yield 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid as an off-white powder; [M+H-18]+ 256.0

reactant | 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid tert-butyl ester | 0.33 mmol, 0.097 g | C(C)(C)(C)OC(CCC1=CC=C(C=C1)OCC(=O)OC)=O | C16H22O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid | COC(=O)COC1=CC=C(C=C1)CCC(=O)O | C12H14O5
